US06083943
(14) (2S*,3S*,4R*,5R*)-4-Benzyloxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine dihydrochloride
An excess amount of Hydrogen Chloride, Methanol Reagent 10 (Tokyo Kasei) was added to (2S*,3S*,4R*,5R*)-4-benzyloxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine (0.40 g, 0.87 mmol) until the mixture became acidic. The solvent MeOH was evaporated in vacuo, and the syrupy residue was crystallized from EtOH--Et2O to give title compound (0.40 g, 87%) as white powders (mp 129-133 C.): IRmax (nujol): 3450(w), 3100-2100(br.s), 1510(s), 1255(s), 1087(m), 810(w), 755(m), 700(s) cm-1 ; 1H-NMR δ (DMSO-d6): 7.83(br.s, 2H), 7.62-7.40(m, 3H), 7.40-7.33(m, 4H), 7.37-7.25(m, 1H), 7.25-7.12(m, 2H), 6.89(d, J=8.4 Hz, 1H), 5.11(br.s, 1H), 4.59(s, 2H), 3.78-3.50(m, 5H), 3.67(br.s, 2H), 3.45-3.30[m, 3H; overlaped with the signals (δ 3.35) due to H2O], 3.35[s, 3H; overlaped with the signals (δ 3.35) due to H2O], 2.77(sep, J=7.0 Hz, 1H), 2.55-2.48[m, 1H; overlaped with the signals (δ 2.50) due to DMSO], 1.64(br.d, J=5.9 Hz, 3H), 1.14(d, J=7.0 Hz, 6H) ppm.

reactant | Hydrogen Chloride | Cl | ClH
reactant | (2S*,3S*,4R*,5R*)-4-benzyloxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine | 0.87 mmol, 0.40 g | C(C1=CC=CC=C1)OC[C@H]1[C@@H]([C@@H](N[C@@H]1C)C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(C)C)OC | C30H38N2O2
solvent | Methanol | CO | CH4O
product | (2S*,3S*,4R*,5R*)-4-Benzyloxymethyl-3-[N-(5-isopropyl-2-methoxybenzyl)amino]-5-methyl-2-phenylpyrrolidine dihydrochloride | 0.40 g, 87% | Cl.Cl.C(C1=CC=CC=C1)OC[C@H]1[C@@H]([C@@H](N[C@@H]1C)C1=CC=CC=C1)NCC1=C(C=CC(=C1)C(C)C)OC | InChI=1S/C30H38N2O2.2ClH/c1-21(2)25-15-16-28(33-4)26(17-25)18-31-30-27(20-34-19-23-11-7-5-8-12-23)22(3)32-29(30)24-13-9-6-10-14-24;;/h5-17,21-22,27,29-32H,18-20H2,1-4H3;2*1H/t22-,27-,29+,30+;;/m1../s1
